US07635715B2
Step F: Preparation of 1,1-Dimethylethyl N-((1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
Ethyl 1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate (0.225 g, 0.829 mmol), glycine tert-butyl ester hydrochloride (0.167 g, 0.995 mmol), and glycine tert-butyl ester hydrochloride (0.167 g, 0.995 mmol) were refluxed in dioxane (50 mL) for 14 hours. The solvent was then removed in vacuo. The resulting residue was concentrated in vacuo and purified using silica flash chromatography (10-40% EtOAc/hexanes). MS (m/z)=301 (M+H)+(hydrolyzed product) 379.1 (product+Na).

reactant | Ethyl 1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalene-3-carboxylate | 0.829 mmol, 0.225 g | C(#N)C1(C(C(=C(C2=CC=CC=C12)O)C(=O)OCC)=O)C | C15H13NO4
reactant | glycine tert-butyl ester hydrochloride | 0.995 mmol, 0.167 g | Cl.C(C)(C)(C)OC(CN)=O
reactant | glycine tert-butyl ester hydrochloride | 0.995 mmol, 0.167 g | Cl.C(C)(C)(C)OC(CN)=O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((1-cyano-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | C(#N)C1(C(C(=C(C2=CC=CC=C12)O)C(=O)NCC(=O)OC(C)(C)C)=O)C | C19H20N2O5
